US08440710B2
Step 1: 5-Nitro-2-(2,2,2-trifluoro-ethoxy)-pyridine
In a 250 mL four-necked flask, sodiumhydride (60% in mineral oil, 4.16 g) was combined with DMF (60 mL). The suspension was cooled to 0° C. and 2,2,2-trifluoroethanol (10.4 g, [CAS Reg. No. 75-89-8]) was added dropwise over a period of 20 minutes to the cold suspension. The mixture was stirred for 1 hour at 0° C. Then, a solution of 2-chloro-5-nitropyridine (15 g, [CAS Reg. No. 4548-45-2]) in DMF (70 mL) was added dropwise over a period of 20 minutes to the cold reaction mixture. Stirring was continued for 10 minutes at 0° C. and for 2 hours at r.t. The reaction mixture was poured into ice/water and was then extracted two times with ethyl acetate. The combined organic layers were washed with brine, dried over Na2SO4, and filtered. The solvent was evaporated and the residue was purified by flash chromatography (silica gel, gradient of heptane in ethyl acetate) to give the title compound as a yellow solid (20.52 g, 93%). MS (EI, m/e): 222.0 [M+].

reactant | sodiumhydride | 4.16 g | [H-].[Na+]
reactant | 2,2,2-trifluoroethanol | FC(CO)(F)F | C2H3F3O
reactant | 2-chloro-5-nitropyridine | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 5-Nitro-2-(2,2,2-trifluoro-ethoxy)-pyridine | 20.52 g, 93% | [N+](=O)([O-])C=1C=CC(=NC1)OCC(F)(F)F | C7H5F3N2O3
